US07005431B2
e) 7 -Bromo-3- (1-fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine
To a stirred solution of 3-(1-fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine (0.6208 g, 3.45 mmol) in acetic acid (15 ml) was added sodium acetate (0.4251 g, 5.18 mmol), then, dropwise over 5 min, a solution of bromine (0.195 ml, 3.78 mmol) in acetic acid (2 ml). The solution was stirred at room temperature for 30 min, then partitioned between saturated aqueous NaHCO3 (300 ml) and ethyl acetate (150 ml). The aqueous layer (pH 7) was further extracted with ethyl acetate (2×150 ml), and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 25% EtOAc/isohexane) to afford 0.8437 g (95%) of the title compound as a yellow solid: 1H NMR (360 MHz, CDCl3) δ 1.82 (6H, d, J 22.1), 7.99 (1H, s), 8.81 (1H, d, J 1.1).

reactant | 3-(1-fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine | 3.45 mmol, 0.6208 g | FC(C)(C)C1=NC=2N(N=C1)C=CN2 | C8H9FN4
reactant | sodium acetate | 5.18 mmol, 0.4251 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 3.78 mmol, 0.195 ml | BrBr | Br2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 7 -Bromo-3- (1-fluoro-1-methylethyl)imidazo[1,2-b][1,2,4]triazine | 0.8437 g, 95% | BrC1=CN=C2N1N=CC(=N2)C(C)(C)F | C8H8BrFN4
